US07244729B2
(4-Benzyloxy-phenyl)-[6-(4-dimethylaminomethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine
A mixture of 220 mg (0.5 mmol) crude (4-benzyloxy-phenyl)-[6-(4-chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine in 15 ml absolute ethanol is treated with 0.8 ml (5 mmol) of a 33% solution of dimethylamine in ethanol (Fluka, Buchs, Switzerland) and then heated under reflux for 1 h. The resulting solution is cooled and the solvent evaporated. The residue is dissolved in a mixture of dichloromethane and ethanol (95:5), washed with water, dried over sodium sulfate and the solvent evaporated. The solid material is then suspended in ether stirred for 5 min and filtered. Purification of the crude material through flash chromatography using dichloromethane/ethanol 9:1 plus 1% conc. ammonia gives the title compound; m.p. 272-274° C.; MS-ES+: (M+H)+=450.

reactant | (4-benzyloxy-phenyl)-[6-(4-chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine | 0.5 mmol, 220 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)CCl | C26H21ClN4O
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (4-Benzyloxy-phenyl)-[6-(4-dimethylaminomethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)CN(C)C | C28H27N5O
